US06288061B1
tert-Butyl 2-hydroxyimino-3-oxo-3-(3-pyridyl)propionate (4.1 g), benzylamine (3.5 g) and acetonitrile (80 ml) were reacted and treated in the same manner as in Starting Material Synthetic Example 5 to give tert-butyl 2-phenyl-5-(3-pyridyl)imidazole-4-carboxylate (2.2 g), melting point 196-197° C.

reactant | tert-Butyl 2-hydroxyimino-3-oxo-3-(3-pyridyl)propionate | 4.1 g | ON=C(C(=O)OC(C)(C)C)C(C=1C=NC=CC1)=O | C12H14N2O4
reactant | benzylamine | 3.5 g | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | tert-butyl 2-phenyl-5-(3-pyridyl)imidazole-4-carboxylate | 2.2 g | C1(=CC=CC=C1)C=1NC(=C(N1)C(=O)OC(C)(C)C)C=1C=NC=CC1 | C19H19N3O2
